US04283414
A mixture of ethyl α-bromo-4-chlorophenylacetate (37.3 g), anhydrous potassium fluoride (9.7 g) and dry dimethylformamide (75 ml) was heated with stirring at a temperature of 140°-150° C. for a period of 6 hours. The reaction mixture was poured into water and the aqueous mixture extracted with methylene dichloride. The organic extract was washed with aqueous sodium carbonate, dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. The product was distilled using a spinning band column to give ethyl α-fluoro-4-chlorophenylacetate (7.5 g; 29%) b.p. 67° C. at 0.06 mm Hg.

reactant | ethyl α-bromo-4-chlorophenylacetate | 37.3 g | BrC(C(=O)OCC)C1=CC=C(C=C1)Cl | C10H10BrClO2
reactant | potassium fluoride | 9.7 g | [F-].[K+]
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl α-fluoro-4-chlorophenylacetate | 7.5 g, 29% | FC(C(=O)OCC)C1=CC=C(C=C1)Cl | C10H10ClFO2
